US05082856
To 20 ml of an ethereal suspension of 1.20 g (30 mmol) of 60% sodium hydride was added dropwise 20 ml of an ethereal solution of 7.42 g (20 mmol) of ethyl γ-ketooctadecanoate ethylene ketal prepared in Synthetic Example 3 and 1.93 g (26 mmol) of ethyl formate under stirring at room temperature. The mixture was stirred at room temperature for 18 hours. Then, 0.70 g (17 mmol) of 60% sodium hydride and 1.00 g (13 mmol) of ethyl formate were further added to the mixture and the whole was stirred at the room temperature for 50 hours. The reaction was terminated by adding diluted hydrochloric acid and the resulting mixture was extracted with ether. A residue obtained by removing the solvent from the extract under reduced pressure was treated with 30 ml of concentrated hydrochloric acid under vigorous stirring for 1.5 hours. The resulting mixture was extracted with ether, washed with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After removing the solvent under a reduced pressure, the residue was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/10) to obtain 3.63 g (51% yield) of ethyl γ-keto-α-formyloctadecanoate.

reactant | sodium hydride | 30 mmol, 1.20 g | [H-].[Na+]
reactant | ethyl γ-ketooctadecanoate ethylene ketal | 20 mmol, 7.42 g | C1COC(CCC(CCCCCCCCCCCCCC)=O)(OCC)O1 | C22H42O4
reactant | ethyl formate | 26 mmol, 1.93 g | C(=O)OCC | C3H6O2
reactant | sodium hydride | 17 mmol, 0.70 g | [H-].[Na+]
reactant | ethyl formate | 13 mmol, 1.00 g | C(=O)OCC | C3H6O2
product | ethyl γ-keto-α-formyloctadecanoate | 3.63 g, 51% yield | O=C(CC(C(=O)OCC)C=O)CCCCCCCCCCCCCC | C21H38O4
